US06492403B1
A solution of 5 g (22.6 mmol) of 4-bromo-5-methylthiophene-2-carboxylic acid was dissolved in dry dichloromethane (200 mL) and reacted with oxalyl chloride (2 mL, 22.6 mmol) and dimethylformamide (100 μL) stirring on an ice bath for 30 min and then at room temperature for 2.5 h. The solvents were removed in vacuo and the residue was passed through silica gel, eluting off with hexanes:ethyl acetate 7/3 (v:v), ethyl acetate, and dichloromethane. The solvents were removed in vacuo and the resulting oil dissolved in dry dichloromethane (100 mL). This solution was reacted with dry pyridine (9 mL, 113 mmol) and dry isopropanol (40 mL, 522 mmol) for 88 h. The solvents were removed in vacuo and the residue partitioned between sodium bicarbonate (150 mL) and dichloromethane (75 mL). The aqueous layers were extracted with dichloromethane (2×20 mL), and the combined organic layers were washed with sodium bicarbonate (30 mL), brine (30 mL), and dried over anhydrous sodium sulfate. The solvents were removed in vacuo. The residue was purified by column chromatography eluting with hexanes:ethyl acetate 9/1 (v:v) to give isopropyl 4-bromo-5-methylthiophene-2-carboxylate (1.91 g, 32%) as a pale yellow oil. 1H-NMR NMR (DMSO-d6; 300 MHz) δ7.66 (s, 1H), 5.07 (septet, 1H, J=6.2 Hz), 2.42 (s, 3H), 1.29 (d, 6H, J=6.2 Hz). Mass spectrum (ESI, m/z): Calcd. for C9H11O2SBr 264.2 (M+H), found 264.8.

reactant | 4-bromo-5-methylthiophene-2-carboxylic acid | 22.6 mmol, 5 g | BrC=1C=C(SC1C)C(=O)O | C6H5BrO2S
reactant | oxalyl chloride | 22.6 mmol, 2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 113 mmol, 9 mL | N1=CC=CC=C1 | C5H5N
reactant | isopropanol | 522 mmol, 40 mL | C(C)(C)O | C3H8O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 100 μL | CN(C=O)C | C3H7NO
product | isopropyl 4-bromo-5-methylthiophene-2-carboxylate | 1.91 g, 32% | BrC=1C=C(SC1C)C(=O)OC(C)C | C9H11BrO2S
